US07094801B2
4-[3E-(4-Methoxy-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 4-methoxy-3-(thiophen-2-yl)-benzaldehyde (Ex-41A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 219–220° C., 71% yield. 1H-NMR (DMSO-D6) δ 13.36 (br s, 1H), 8.25–8.31 (m, 3H), 8.11 (d, J=8 Hz, 2H), 7.85–7.98 (m, 3H), 7.78–7.80 (m, 1H), 7.61 (d, J=5 Hz, 1H), 7.25 (d, J=9 Hz, 1H), 7.17 (dd, J=4, 6 Hz, 1H), 3.99 (s, 3H). HRMS m/z=calc. 365.0848, found 365.0833.

reactant | 4-methoxy-3-(thiophen-2-yl)-benzaldehyde | COC1=C(C=C(C=O)C=C1)C=1SC=CC1 | C12H10O2S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(4-Methoxy-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 71% yield | COC1=C(C=C(C=C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)C=1SC=CC1 | C21H16O4S
